US07842694B2
3-{[5-(Azetidin-1-ylcarbonyl)-3-chloropyridin-2-yl]oxy}-N-(4-methyl-1,3-thiazol-2-yl)-5-[(3S)-tetrahydrofuran-3-yloxy]benzamide
1-Chloro-N,N,2-trimethyl-1-propenylamine (0.70 mL, 0.53 mmol) was added to a solution of 3-{[5-(azetidin-1-ylcarbonyl)-3-chloropyridin-2-yl]oxy}-5-[(3S)-tetrahydrofuran-3-yloxy]benzoic acid (200 mg, 0.48 mmol) in DCM (6 mL) and stirred at RT for 2 hours. 2-Amino-4-methylthiazole (110 mg, 0.96 mmol) and pyridine (0.078 mL, 0.96 mmol) were added and the reaction stirred at RT for 16 hours. The solvent was removed in vacuo, water (20 mL) added and the mixture extracted with ethyl acetate (3×20 mL). The extracts were combined and washed with 2N hydrochloric acid (20 mL), saturated aqueous sodium bicarbonate solution (20 mL), water (20 mL), brine (20 mL), dried (MgSO4), filtered, and evaporated in vacuo. The residue was chromatographed on silica, eluting with a gradient of 50-100% ethyl acetate in isohexane, to give the desired compound (78 mg).

reactant | 1-Chloro-N,N,2-trimethyl-1-propenylamine | 0.53 mmol, 0.70 mL | ClC(=C(C)C)N(C)C | C6H12ClN
reactant | 3-{[5-(azetidin-1-ylcarbonyl)-3-chloropyridin-2-yl]oxy}-5-[(3S)-tetrahydrofuran-3-yloxy]benzoic acid | 0.48 mmol, 200 mg | N1(CCC1)C(=O)C=1C=C(C(=NC1)OC=1C=C(C(=O)O)C=C(C1)O[C@@H]1COCC1)Cl | C20H19ClN2O6
reactant | 2-Amino-4-methylthiazole | 0.96 mmol, 110 mg | NC=1SC=C(N1)C | C4H6N2S
reactant | pyridine | 0.96 mmol, 0.078 mL | N1=CC=CC=C1 | C5H5N
solvent | DCM | 6 mL | C(Cl)Cl | CH2Cl2
product | 3-{[5-(Azetidin-1-ylcarbonyl)-3-chloropyridin-2-yl]oxy}-N-(4-methyl-1,3-thiazol-2-yl)-5-[(3S)-tetrahydrofuran-3-yloxy]benzamide | 78 mg | N1(CCC1)C(=O)C=1C=C(C(=NC1)OC=1C=C(C(=O)NC=2SC=C(N2)C)C=C(C1)O[C@@H]1COCC1)Cl | C24H23ClN4O5S
